US08389717B2
N-(4-Chloro-phenyl)-6-methoxy-N′-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N-methyl-[1,3,5]triazine-2,4-diamine
This compound was prepared from (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and 4-chloro-N-methylaniline in analogy to example 1c. It was purified by column chromatography on Si—NH2 gel (Isolute) using ethyl acetate as eluent to give the title compound as a colorless solid in 14% yield.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | 4-chloro-N-methylaniline | ClC1=CC=C(NC)C=C1 | C7H8ClN
product | N-(4-Chloro-phenyl)-6-methoxy-N′-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N-methyl-[1,3,5]triazine-2,4-diamine | 14% yield | ClC1=CC=C(C=C1)N(C1=NC(=NC(=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)OC)C | C22H22ClN7O2
